US08871792B2
(R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)-isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid Acetoxymethyl Ester
Bromomethyl acetate (11.9 mL, 121 μmol) was added to a mixture of (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid (40.0 mg, 76 μmol) and Et3N (21.1 mL, 152 μmol) in acetone (1.0 mL, 14 mmol). The resulting mixture was stirred at room temperature for 1 hour. The mixture was then concentrated and the residue was dissolved in AcOH (2 mL), filtered, and purified by reverse phase prep HPLC. The desired fractions were frozen and lyophilized to yield the title compound (8.5 mg, purity 98.5%) as a TFA salt. MS m/z [M+H]+ calc'd for C29H24ClF2N3O7, 600.13. found 600.1.

reactant | Bromomethyl acetate | 121 μmol, 11.9 mL | C(C)(=O)OCBr | C3H5BrO2
reactant | (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid | 76 μmol, 40.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)O)F | C26H20ClF2N3O5
reactant | Et3N | 152 μmol, 21.1 mL | CCN(CC)CC | C6H15N
reactant | acetone | 14 mmol, 1.0 mL | CC(=O)C | C3H6O
product | (R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)-isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid Acetoxymethyl Ester | 8.5 mg | C(C)(=O)OCOC([C@@H](CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C29H24ClF2N3O7
